US08044090B2
N-(2-(6-Fluoro-1H-indol-3-yl)ethyl)-3-(2,2,3,3-tetrafluoropropyl)benzylamine
Combine isopropanol (500 g), 2,2,3,3-tetrafluoropropylbenzaldehyde (116.8 g), and 6-fluorotryptamine (1.15 equiv.). Heat to reflux over about 1.5 hour. After 30 minutes at the reflux, distill and over 30 minutes collect about 380 g of distillate. Cool the reaction mixture to 50° C. and add NaBH4 (19.71 g) in one portion. After 1 hour at 50° C., slowly add water over 15 minutes and allow the resulting solution to cool to room temperature overnight. Distill the isopropanol under reduced pressure to give a residue and extract with dichloromethane, combine organic layers, and treat with 1N aqueous HCl (650 mL) to give a solid. Stir the heavy suspension for 2 hours at 20-25° C. Collect the solid by filtration, wash with dichloromethane and dry at 50° C. under vacuum overnight to afford title compound.

reactant | 2,2,3,3-tetrafluoropropylbenzaldehyde | 116.8 g | FC(CC1=C(C=O)C=CC=C1)(C(F)F)F | C10H8F4O
reactant | 6-fluorotryptamine | 1.15 equiv. | FC=1C=C2NC=C(CCN)C2=CC1 | C10H11FN2
reactant | isopropanol | 500 g | C(C)(C)O | C3H8O
product | N-(2-(6-Fluoro-1H-indol-3-yl)ethyl)-3-(2,2,3,3-tetrafluoropropyl)benzylamine | FC1=CC=C2C(=CNC2=C1)CCNCC1=CC(=CC=C1)CC(C(F)F)(F)F | C20H19F5N2
